US07741479B2
A mixture of 4-(4-amino-2-tert-butylthiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one (0.035 g, 0.092 mmol), dichlorophenyl isocyanate (0.019 g, 0.10 mmol), and THF (2 mL) was heated at 75° C. for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate, dried, the solvent eliminated under vacuum and the crude product was purified by preparative thin layer chromatography (dichloromethane:methanol, 95:5) to afford 0.035 g of 1-(5-tert-butyl-2-(1-(2-(dimethylamino)ethyl)-3,3-dimethyl-2-oxopiperazine-4-carbonyl)thiophen-3-yl)-3-(2,3-dichlorophenyl)urea. 1H NMR (400 MHz, acetone-d6): δ (ppm) 9.57 (bs, 1H); 8.86 (bs, 1H); 8.17 (d, 1H); 7.65 (s, 1H); 7.30 (m, 2H); 3.90 (m, 2H); 3.60 (m, 2H); 3.50 (t, 2H); 2.43 (t, 2H); 2.20 (s, 6H); 1.70 (s, 6H); 1.40 (s, 9H).

reactant | 4-(4-amino-2-tert-butylthiophene-5-carbonyl)-1-(2-(dimethylamino)ethyl)-3,3-dimethylpiperazin-2-one | 0.092 mmol, 0.035 g | NC=1C=C(SC1C(=O)N1C(C(N(CC1)CCN(C)C)=O)(C)C)C(C)(C)C | C19H32N4O2S
reactant | dichlorophenyl isocyanate | 0.10 mmol, 0.019 g | ClC=1C(=C(C=CC1)N=C=O)Cl | C7H3Cl2NO
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-tert-butyl-2-(1-(2-(dimethylamino)ethyl)-3,3-dimethyl-2-oxopiperazine-4-carbonyl)thiophen-3-yl)-3-(2,3-dichlorophenyl)urea | 0.035 g | C(C)(C)(C)C1=CC(=C(S1)C(=O)N1C(C(N(CC1)CCN(C)C)=O)(C)C)NC(=O)NC1=C(C(=CC=C1)Cl)Cl | C26H35Cl2N5O3S
